US06384041B1
A mixture of 67 mg (0.15 mmol) of [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and 2 mL of methanol were treated with 0.15 mL of 2 M sodium hydroxide and stirred at ambient temperature for 3 days. The reaction was concentrated to an oil then diluted with 5 mL of water. The product precipitated upon the addition of 0.45 mL of 1 M HCl to provide 59 mg (95%) of [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a white solid. nmr (500 MHz, dmso-d6) δ1.01 (t, J=7.4 Hz, 3H), 2.95 (q, J=7.4 Hz, 2H), 4.92 (s, 2H), 5.60 (s, 2H), 7.03 (d, J=7.4 Hz, 1H), 7.26 (s, 1H), 7.34 (m, 2H), 7.58 (br s, 1H), 8.00 (br s, 1H), 8.46 (s, 1H), 12.9 (br s, 1H)

reactant | [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.15 mmol, 67 mg | COC(COC=1C2=C(N=CN1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)Cl)=O | C20H19ClN4O5
reactant | sodium hydroxide | 2 M, 0.15 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | [[5-(aminooxoacetyl)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 59 mg, 95% | NC(C(=O)C1=C(N(C=2N=CN=C(C21)OCC(=O)O)CC2=CC(=CC=C2)Cl)CC)=O | C19H17ClN4O5
